US08802670B2
To a solution of 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (2.0 g) in anhydrous tetrahydrofuran (50 ml) was added carbon tetrabromide (6.2 g) and triphenylphosphine (4.88 g). the reaction mixture was stirred at room temperature for 3 days. The reaction mixture was filtered through celite. The filtrate was taken up in ethyl acetate, washed with water then brine, dried (MgSO4) and the solvent removed in vacuo give a crude product. This was purified using flash chromatography which yielded Bromomethyl-piperidine-1-carboxylic acid tert-butyl ester (1.287 g).

reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | carbon tetrabromide | 6.2 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 4.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Bromomethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.287 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CBr | C11H20BrNO2
